US04547573
To a solution of 2,2-diethoxyethylcyanamide (5.5 g.) in anhydrous THF (100 ml.) at 0° was added triethylamine (6.29 ml.) and trimethylsilyl chloride (5.73 ml.). The reaction mixture was stirred at room temperature for 3 hours, the precipitated triethylamine hydrochloride removed by filtration under nitrogen and the filtrate concentrated. The residue was taken up in CCl4, the solvent evaporated and the residue was distilled at 80°/0.2 mm to give 1-(2,2-diethoxyethyl)-3-trimethylsilylcarbodiimide (6.5 g.) having the following n.m.r. in CDCl3 : 0.219 (s, 9H); 1.244 (t, 6H); 3.256 (d, 2H); 3.486-3.798 (m, 4H); 4.55 (t, 1H).

reactant | 2,2-diethoxyethylcyanamide | 5.5 g | C(C)OC(CNC#N)OCC | C7H14N2O2
reactant | triethylamine | 6.29 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 5.73 ml | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-(2,2-diethoxyethyl)-3-trimethylsilylcarbodiimide | 6.5 g | C(C)OC(CN=C=N[Si](C)(C)C)OCC | C10H22N2O2Si
